* Bias generator startup comparison: RSTART=20Meg resistor vs pseudo-resistor.
* Both instances run side by side on the same VDD ramp; watch VBN settle.
.lib /Users/noah/.volare/volare/sky130/versions/0fe599b2afb6708d281543108caf8310912f54af/sky130A/libs.tech/ngspice/sky130.lib.spice tt
.include eeg_pseudo_res.spice
.include eeg_bias_gen.spice
.include eeg_bias_gen_prstart.spice
.param VDD=1.80
VDD_SRC VDD18 0 PWL(0 0 1u {VDD})
XBG1 VBN1 VBNF1 VBP1 VDD18 0 eeg_bias_gen RSET=25k
XBG2 VBN2 VBNF2 VBP2 VDD18 0 eeg_bias_gen_prstart RSET=25k
.control
set noaskquit
save time v(VBN1) v(VBNF1) v(VBP1) v(VBN2) v(VBNF2) v(VBP2)
tran 10u 50m
wrdata ../results/bias_start_cmp.csv time v(VBN1) v(VBNF1) v(VBP1) v(VBN2) v(VBNF2) v(VBP2)
quit
.endc
.end
